US06593333B1
4-[2-Methyl-5-(3,4-dimethoxybenzamido)anilino]-6,7-dimethoxyquinoline hydrochloride
Hydrochloric acid (0.15 ml) was added to a mixture of 4-chloro-6,7-dimethoxy quinoline (335 mg) and N-(3-amino-4-methylphenyl)-3,4-dimethoxybenzamide (472 mg) in isopropanol (8 ml) and heated to 85° C. for 18 hours. After cooling to room temperature the precipitated solid was isolated and washed with isohexane to yield the title compound as a solid (180 mg, 24%); NMR: 2.31 (s, 3H), 3.82 (s, 6H), 3.97 (s, 3H), 3.99 (s, 3H), 6.75 (m, 1H), 7.06 (m, 1H), 7.25 (m, 1H), 7.42 (m, 2H), 7.51 (m, 1H), 7.55 (m, 1H), 7.64 (m, 1H), 8.1 (s, 1H), 8.36 (m, 1H), 9.84 (s, 1H), 10.61 (s, 1H); m/s: M+H+ 474.

reactant | Hydrochloric acid | 0.15 ml | Cl | ClH
reactant | 4-chloro-6,7-dimethoxy quinoline | 335 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | N-(3-amino-4-methylphenyl)-3,4-dimethoxybenzamide | 472 mg | NC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)OC)OC)=O | C16H18N2O3
solvent | isopropanol | 8 ml | C(C)(C)O | C3H8O
product | 4-[2-Methyl-5-(3,4-dimethoxybenzamido)anilino]-6,7-dimethoxyquinoline hydrochloride | 180 mg, 24% | Cl.CC1=C(NC2=CC=NC3=CC(=C(C=C23)OC)OC)C=C(C=C1)NC(C1=CC(=C(C=C1)OC)OC)=O | InChI=1S/C27H27N3O5.ClH/c1-16-6-8-18(29-27(31)17-7-9-23(32-2)24(12-17)33-3)13-21(16)30-20-10-11-28-22-15-26(35-5)25(34-4)14-19(20)22;/h6-15H,1-5H3,(H,28,30)(H,29,31);1H
